US07534797B2
7-(8-Chloro-3-cyclobutyl-7,8-dihydroimidazo[1,5-a]pyrazin-1-yl)-2-phenylquinoxaline
N-[(3-chloropyrazin-2-yl)(3-phenylquinoxalin-6-yl)methyl]-cyclobutanecarboxamide (56 mg, 0.13 mmol) was heated in POCl3 (5 mL) under Ar at 70° C. for 26 h. Later the reaction was cooled to rt, evaporated under reduced pressure and then high vacuum. A solution of NH3 in i-PrOH (2 M, 10 mL was added to the crude material cooled in an ice-H2O bath under Ar. The mixture was stirred, sonicated and filtered. The solids and the reaction flask were washed with i-PrOH multiple times. The filtrate was concentrated under reduced pressure. The light yellow residue was partitioned between DCM (60 mL) and H2O (20 mL). The aq. layer was extracted with DCM (2×). Combined organic phase was washed with brine and dried (Na2SO4) to afford the title compound as a light yellow solid; 1H NMR (400 MHz, CD3CN) δ 9.40 (s, 1H), 8.36 (s, 1H), 8.32-8.25 (m, 2H), 8.13-8.11 (m, 2H), 7.77 (d, J=4.8 Hz, 1H), 7.63-7.51 (m, 3H), 7.32 (d, J=4.8 Hz, 1H), 3.97 (qund, J=1.2 Hz, 8.4 Hz, 1H), 2.60-2.45 (m, 4H), 2.05-1.95 (m, 2H). MS (ES+): m/z 412.0 (40) [MH+]; HPLC: tR=4.10 min (OpenLynx, polar—5 min).

reactant | N-[(3-chloropyrazin-2-yl)(3-phenylquinoxalin-6-yl)methyl]-cyclobutanecarboxamide | 0.13 mmol, 56 mg | ClC=1C(=NC=CN1)C(NC(=O)C1CCC1)C=1C=C2N=C(C=NC2=CC1)C1=CC=CC=C1 | C24H20ClN5O
solvent | POCl3 | 5 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 7-(8-Chloro-3-cyclobutyl-7,8-dihydroimidazo[1,5-a]pyrazin-1-yl)-2-phenylquinoxaline | ClC1C=2N(C=CN1)C(=NC2C2=CC=C1N=CC(=NC1=C2)C2=CC=CC=C2)C2CCC2 | C24H20ClN5
